US03989694
To a solution of 1.725 g. (75 mmol.) of sodium in 50 ml. of absolute ethanol is added 6.0 g. (45 mmol.) of benzylazide and 12.3 g. (50 mmol.) of diethyl 2-(carbomethoxyethyl)malonate. The reaction mixture is refluxed for 12 hours, then cooled and evaporated to dryness. Water (100 ml.) is added and the mixture is heated while maintaining the pH at 12. The aqueous mixture is extracted with ethyl acetate and the aqueous phase is acidified with 3N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution is evaporated to dryness to give 1-benzyl-4-(2-carboxyethyl)-5-hydroxy-1,2,3-triazole.

reactant | sodium | 75 mmol | [Na] | Na
reactant | benzylazide | 45 mmol | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | diethyl 2-(carbomethoxyethyl)malonate | 50 mmol | C(=O)(OC)CCC(C(=O)OCC)C(=O)OCC | C11H18O6
solvent | ethanol | C(C)O | C2H6O
product | 1-benzyl-4-(2-carboxyethyl)-5-hydroxy-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC(=C1O)CCC(=O)O | C12H13N3O3
